US03963728
Synthesis of 4-amino-6-hydroxy-2-mercaptopyrimidine:
0.57 g. of ethyl cyanoacetate and 0.38 g. of thiourea are heated under reflux in 3 ml. of methanol in the presence of 1.17 g. of the sodium salt of 2-hydroxypyridine. After completion of reaction, 4 ml. of water is added, and the solution is neutralized with 0.58 ml. of acetic acid, to deposit the desired monohydrate crystals. Yield: 82%. The ultraviolet absorption spectrum agrees closely with the literature values.

reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
reactant | thiourea | NC(=S)N | CH4N2S
reactant | sodium | [Na] | Na
reactant | 2-hydroxypyridine | OC1=NC=CC=C1 | C5H5NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 4-amino-6-hydroxy-2-mercaptopyrimidine | Yield: 82% | NC1=NC(=NC(=C1)O)S | C4H5N3OS
